US07598257B2
4-(1H-Pyrazol-4-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine (220 mg, 0.0006996 mol) and 3-methyl-2-butenoic acid ethyl ester (292 μL, 0.00210 mol) were dissolved in DMF (10 mL). Cesium carbonate (912 mg, 0.00280 mol) was added and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with water, and the product was extracted with MTBE several times. The combined extracts were dried over sodium sulfate and concentrated. The crude residue was purified by flash column chromatography (0-60% EtOAc/Hexanes) to afford ethyl 3-methyl-3-[4-(1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]butanoate (244 mg, 79%). 1H NMR (300 MHz, CDCl3): δ 8.37 (d, 1H), 8.11 (s, 1H), 8.09 (s, 1H), 7.45 (d, 1H), 7.24 (d, 1H), 6.79 (d, 1H), 5.77 (s, 2H), 4.10 (q, 2H), 3.62 (dd, 2H), 3.04 (s, 2H), 1.88 (s, 6H), 1.20 (t, 3H), 0.98 (dd, 2H), 0.00 (s, 9H); MS(ES): 443 (M+1).

reactant | 4-(1H-Pyrazol-4-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.0006996 mol, 220 mg | N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C16H22N4OSi
reactant | 3-methyl-2-butenoic acid ethyl ester | 0.00210 mol, 292 μL | C(C)OC(C=C(C)C)=O | C7H12O2
reactant | Cesium carbonate | 0.00280 mol, 912 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl 3-methyl-3-[4-(1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]butanoate | 244 mg, 79% | CC(CC(=O)OCC)(C)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C23H34N4O3Si
